US08895544B2
5-(2-Fluoro-phenoxy)-pyrazine-2-carboxylic acid
5-(2-Fluoro-phenoxy)-pyrazine-2-carboxylic acid methyl ester (Preparation 44, 57.9 g, 233 mmol) was added to a solution of KOH (15 g, 267 mmol) in 78% ethanol (330 mL). The solution was stirred at room temperature for 18 hours, and the formed precipitate was collected by filtration. The resulting solid was dissolved in water (200 mL), and the solution was acidified with aqueous hydrochloric acid. The formed precipitate was collected by filtration, dried and recrystallised from 41% ethanol (265 mL) to give the title compound (28.3 g, 120.8 mmol) in 51.8% yield.

reactant | 5-(2-Fluoro-phenoxy)-pyrazine-2-carboxylic acid methyl ester | 233 mmol, 57.9 g | COC(=O)C1=NC=C(N=C1)OC1=C(C=CC=C1)F | C12H9FN2O3
reactant | KOH | 267 mmol, 15 g | [OH-].[K+]
solvent | ethanol | 330 mL | C(C)O | C2H6O
product | 5-(2-Fluoro-phenoxy)-pyrazine-2-carboxylic acid | 120.8 mmol, 28.3 g, 51.8% yield | FC1=C(OC=2N=CC(=NC2)C(=O)O)C=CC=C1 | C11H7FN2O3
